US07323465B2
n-Propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide (92 mg) was dissolved in THF (6 ml). Sodium hydride (40 mg) and 2-chloro-5-methylsulfanyl-pyrimidine (71 mg) were added and the mixture was heated to 75° C. for 6 h, then poured onto water, acidified with solid citric acid and the precipitate was filtered off. The crude material was purified by crystallization from methanol to give n-propanesulfonic acid [6-[2-(5-methylsulfanyl-pyrimidin-2-yloxy)-ethoxy]-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide (61 mg) as a white powder. LC-MS: tR: 4.37, [M+H]+: 586.19.

reactant | n-Propanesulfonic acid [6-(2-hydroxy-ethoxy)-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide | 92 mg | OCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCC)OC1=C(C=CC=C1)OC | C20H23N5O6S
reactant | Sodium hydride | 40 mg | [H-].[Na+]
reactant | 2-chloro-5-methylsulfanyl-pyrimidine | 71 mg | ClC1=NC=C(C=N1)SC | C5H5ClN2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | n-propanesulfonic acid [6-[2-(5-methylsulfanyl-pyrimidin-2-yloxy)-ethoxy]-5-(2-methoxy-phenoxy)-[2,2′]bipyrimidinyl-4-yl]-amide | 61 mg | CSC=1C=NC(=NC1)OCCOC1=C(C(=NC(=N1)C1=NC=CC=N1)NS(=O)(=O)CCC)OC1=C(C=CC=C1)OC | C25H27N7O6S2
